US06103902
20 g (39 mmol) of 5-methyl-pyridine-2-sulfonic acid [6-chloro-2-(2-cyano-pyridine-4-yl)-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide were suspended in 100 ml of N,N-dimethyl formamide and 7.6 ml (156 mmol) of hydrazine hydrate were added within 15 min. The reaction mixture was allowed to warm up slowly to 20° C. After 17.5 hr, at a temperature of 15° C., 250 ml of de-ionized water were added followed by slow addition of 10.5 ml acetic acid (until pH=5.4). The resulting suspension was stirred for 2 hr at 20° C. and then for additional 2 hr 0° C. The solid was filtered off under suction, firstly washed with 200 ml of de-ionized water and thereafter with 100 ml of t-butylmethylether. The residue was dried at 40° C., 2000 Pa for 18 hr. There were obtained 21.7 g (102% of theory) of 5-methyl-pyridine-2-sulfonic acid [6-chloro-2-[2-(hydrazino-imino-methyl)-pyridine-4-yl]-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide with a HPLC purity of 81.4% (w/w).

reactant | 5-methyl-pyridine-2-sulfonic acid [6-chloro-2-(2-cyano-pyridine-4-yl)-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide | 39 mmol, 20 g | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C#N)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC | C23H17ClN6O4S
reactant | hydrazine hydrate | 156 mmol, 7.6 ml | O.NN
reactant | water | 250 ml | O | H2O
reactant | acetic acid | 10.5 ml, pH=5.4 | C(C)(=O)O | C2H4O2
solvent | N,N-dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-methyl-pyridine-2-sulfonic acid [6-chloro-2-[2-(hydrazino-imino-methyl)-pyridine-4-yl]-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide | 21.7 g, 102% | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C(=N)NN)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC | C23H21ClN8O4S
